US04849130
18 g (0.05 moles) 1-(p'-n-hexylbiphenylyl)-2-(p-aminophenyl)ethane was dissolved in 200 cm3 of benzene and 25 cm3 of hexane. Then 14 cm3 (0.1 mole) of triethylamine and 6 cm3 (0.1 mole) carbon disulphide was added to the solution. The components were well stirred and left in the fridge for 48 hours. A yellow salt triethyloamonium ditiocarbonate was preciptitated and filtered off and then washed with ether. The obtained produce was dissolved in 100 cm3 of chloroform, 10.5 cm3 of triethylamine was added to the solution and after cooling to 0° 7 g (0.075 mole) of ethyl chloroformate was added droppwise to the continuously stirring solution. After an hour 100 cm3 of 3N hydrochloric acid was poured into the reaction mixture, the layers were separated and the chloroform one was washed twice with water and dried MgSO4. After distilling chloroform off the solid residue was crystallized from isopropanol, then twice from n-hexane and once from a composition of methanol-chloroform. 5 g (25% yield) of 1-p'-n-hexylbiphenylyl)-2-(p-isothio-cyanatophenyl)ethane was obtained. The temperatures of phase transition: Cr 56°SB 99.5°N133°I.

reactant | triethylamine | 0.1 mole, 14 cm3 | C(C)N(CC)CC | C6H15N
reactant | carbon disulphide | 0.1 mole, 6 cm3 | C(=S)=S | CS2
reactant | triethylamine | 10.5 cm3 | C(C)N(CC)CC | C6H15N
reactant | ethyl chloroformate | 0.075 mole, 7 g | ClC(=O)OCC | C3H5ClO2
reactant | hydrochloric acid | 3N, 100 cm3 | Cl | ClH
reactant | benzene | 200 cm3 | C1=CC=CC=C1 | C6H6
solvent | hexane | 25 cm3 | CCCCCC | C6H14
solvent | chloroform | 100 cm3 | C(Cl)(Cl)Cl | CHCl3
product | 2-(p-isothio-cyanatophenyl)ethane | N(=C=S)C1=CC=C(C=C1)CC | C9H9NS
